* C:\TeamPhantom\BMS_Links\bms-link-hw\Simulation\LTSpice\thermistor.asc
RFixed1 N001 0 ={RFixed1}
R§Therm1 Vcc N001 R = {R0Therm1*exp(-BTherm1*( 1/(T0Therm) - 1/( (time + 273.15) )))}
D1 N001 common {Diode}
Rpdn common 0 100k
RFixed2 N002 0 ={RFixed2}
R§Therm2 Vcc N002 R = {R0Therm2*exp(-BTherm2*( 1/(T0Therm) - 1/( (time + 273.15) )))}
D2 N002 common {Diode}
RFixed3 N003 0 ={RFixed3}
R§Therm3 Vcc N003 R = {R0Therm3*exp(-BTherm3*( 1/(T0Therm) - 1/( (time + 273.15) )))}
D3 N003 common {Diode}
B§Regulator Vcc 0 V= {5+gauss(1)}
.model D D
.lib C:\Users\drena\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 70
.param T0Therm=25+273.15
* Thermistor Parameters
.param RFixedNom=1k RFixedTol=0.1
* Fixed Resistor Parameters
* Simulation Parameters
.param RPdnNom=10k RPdnTol=0.1
* Pulldown Resistor Parameters
.include params.txt
.model 1 AKO: 1N4148
.param Diode 1
.backanno
.end
