* C:\Users\drena\Nextcloud\TeamPhantom\BMS_Links\bms-link-hw\Simulation\LTSpice\Cell_Temperature_Alarm\Draft1.asc
V1 N002 0 2
V2 N003 0 1
V3 N001 0 5
XU1 N003 N002 N001 0 out LM339_PSPICE_MODEL.LIB LM339
.lib ./LM339_PSPICE_MODEL.LIB
.tran 1
.backanno
.end
